US06521754B2
Furan-2-carboxylic acid benzothiazol-2-ylamide
Using 2-amino-benzothiazole and furan-2-carboxylic acid chloride in pyridine the title compound was obtained as a white solid (83% yield), MS: m/e=244 (M+).

reactant | 2-amino-benzothiazole | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | furan-2-carboxylic acid chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Furan-2-carboxylic acid benzothiazol-2-ylamide | S1C(=NC2=C1C=CC=C2)NC(=O)C=2OC=CC2 | C12H8N2O2S
